US07314872B2
3-(R)-Cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-4-morpholin-4-yl-4-oxo-butyramide
(R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid (220 mg, 0.52 mmol) was treated with morpholine (110 μL, 1.26 mmol, 2.4 eq.) and HATU (238 mg, 0.72 mmol, 1.4 eq.). The reagents were dissolved in dry dichloromethane (4 mL) and treated with diisopropylethylamine (315 μL, 1.81 mmol, 3.5 eq.). The reaction was judged to completion by LC/MS, volatiles were evaporated and the reaction was purified by prep-LC/MS and provided 131 mg (0.25 mmol, 40%) of a off-white solid: HPLC-MS calcd. for C23H34FN3O3 (M+H+) 420.3. found 420.5.

reactant | (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid | 0.52 mmol, 220 mg | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)NCCNC1=CC=C(C=C1)F | C19H27FN2O3
reactant | morpholine | 1.26 mmol, 110 μL, 2.4 eq. | N1CCOCC1 | C4H9NO
reactant | HATU | 0.72 mmol, 238 mg, 1.4 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.81 mmol, 315 μL, 3.5 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(R)-Cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-4-morpholin-4-yl-4-oxo-butyramide | 0.25 mmol, 131 mg, 40% | C1(CCCCC1)C[C@H](CC(=O)NCCNC1=CC=C(C=C1)F)C(=O)N1CCOCC1 | C23H34FN3O3
